US08859591B2
Methyl 3-(4-(3-methyl-1-(4-(4-(trifluoromethyl)-1H-imidazol-1-yl)phenyl)butoxy)benzamido)propanoate (70 mg, 0.14 mmol) was dissolved in methanol (2 mL) and 1M lithium hydroxide (1 mL) was added. The reaction was stirred at room temperature for 1 hour. The methanol was removed under reduced pressure and the residue was diluted with water (2 mL). Upon stirring a precipitate forms. The solution was further diluted with water (15 mL) and 1M NaOH (3 mL). The solution was extracted with ether (20 mL). The organics were washed with water (10 mL) and the aqueous layers were combined. The aqueous solution was acidified with 1M HCl to give a cloudy solution. The solution was extracted with ethyl acetate (2×15 mL). The combined organics were dried over sodium sulfate, filtered and concentrated to give (+/−)-3-(4-(3-methyl-1-(4-(4-(trifluoromethyl)-1H-imidazol-1-yl)phenyl)butoxy)benzamido)propanoic acid (53.1 mg, 78%) as an off-white solid. 1H NMR (400 MHz, CDCl3, δ): 7.89 (s, 1H), 7.66-7.60 (m, 2H), 7.58 (s, 1H), 7.49 (d, J=8.5 Hz, 2H), 7.36 (d, J=8.5 Hz, 2H), 6.97-6.92 (m, 2H), 6.77 (t, J=6 Hz, 1H), 5.29 (dd, J=9, 4.4 Hz, 1H), 3.73-3.63 (m, 2H), 2.66-2.64 (m, 2H), 2.06-2.00 (m, 1H), 1.95-1.83 (m, 1H), 1.62 (m, 1H), 1.03 (d, J=6.6 Hz, 3H), 0.99 (d, J=6.6 Hz, 3H). MS (M+1): 490.2.

reactant | Methyl 3-(4-(3-methyl-1-(4-(4-(trifluoromethyl)-1H-imidazol-1-yl)phenyl)butoxy)benzamido)propanoate | 0.14 mmol, 70 mg | CC(CC(OC1=CC=C(C(=O)NCCC(=O)OC)C=C1)C1=CC=C(C=C1)N1C=NC(=C1)C(F)(F)F)C | C26H28F3N3O4
reactant | lithium hydroxide | 1M, 1 mL | [OH-].[Li+]
solvent | methanol | 2 mL | CO | CH4O
product | (+/−)-3-(4-(3-methyl-1-(4-(4-(trifluoromethyl)-1H-imidazol-1-yl)phenyl)butoxy)benzamido)propanoic acid | 53.1 mg, 78% | CC(CC(OC1=CC=C(C(=O)NCCC(=O)O)C=C1)C1=CC=C(C=C1)N1C=NC(=C1)C(F)(F)F)C | C25H26F3N3O4
